US09085555B2
(3-Acetyl-6-methoxy-indol-1-yl)-acetic acid
was prepared from 1-(6-methoxy-1H-indol-3-yl)-ethanone [99532-52-2] in a similar manner as described in step B and C of Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. Brown solid. MS: 248 [M+H]+, 517 [2M+Na]+; tR (HPLC conditions k): 2.30 min.

reactant | 1-(6-methoxy-1H-indol-3-yl)-ethanone | COC1=CC=C2C(=CNC2=C1)C(C)=O | C11H11NO2
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | (3-Acetyl-6-methoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC(=CC=C12)OC)CC(=O)O | C13H13NO4
